US05478850
5-(4-(2-Phthalimidoethoxy)benzyl)-2,4-thiazolidinedione
A suspension of 5-(4-(2-phthalimidoethoxy)benzylidene)-2,4-thiazolidinedione (3.25 g) in dioxan (100 ml)was hydrogenated at room temperature and pressure in the presence of 10% palladium-charcoal (5 g) for 18 hours. A further portion of catalyst (5 g) was added, and the reaction continued for a total of 23 hours. The reaction mixture was filtered through diatomaceous earth, and the solvent evaporated. The resulting gum was crystallised from methanol-dioxan to afford the title compound, mp 192°-4° C.

reactant | 5-(4-(2-phthalimidoethoxy)benzylidene)-2,4-thiazolidinedione | 3.25 g | C1(C=2C(C(N1CCOC1=CC=C(C=C3C(NC(S3)=O)=O)C=C1)=O)=CC=CC2)=O | C20H14N2O5S
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-charcoal | 5 g | [Pd] | Pd
product | 5-(4-(2-Phthalimidoethoxy)benzyl)-2,4-thiazolidinedione | C1(C=2C(C(N1CCOC1=CC=C(CC3C(NC(S3)=O)=O)C=C1)=O)=CC=CC2)=O | C20H16N2O5S
